US04210754
35 G. of p-chlorobenzoyl chloride are added dropwise to a solution of 26 g. of N-(2-aminoethyl)-morpholine in 200 ml. of pyridine, while stirring and cooling with ice-water. Thereafter, the mixture is stirred overnight at room temperature and subsequently evaporated to dryness. Then, the residue is evaporated twice more with 200 ml. of toluene each time. The solid residue is taken up in 300 ml. of ice-water and 300 ml. of methylene chloride and rendered basic with 3-N sodium hydroxide solution. The phases are separated and the methylene chloride extract is washed with water, dried over sodium sulfate and evaporated to dryness. The residue is recrystallized from isopropanol and 41.5 g. of p-chloro-N-(2-morpholinoethyl)-benzamide, melting point 137° C., are obtained.

reactant | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | N-(2-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | p-chloro-N-(2-morpholinoethyl)-benzamide | ClC1=CC=C(C(=O)NCCN2CCOCC2)C=C1 | C13H17ClN2O2
